US06956042B2
7-(5-Ethoxy-3-pyridyl)-1,7-diazaspiro[4.4]nonane
To a solution of 1-benzyl-7-(5-ethoxy-3-pyridyl)-1,7-diazaspiro[4.4]nonane (540 mg, 1.6 mmol) in ethanol (25 mL) in a pressure bottle was added concentrated HCl (1 mL) and Pearlman's catalyst (Pd(OH)2, 20% on carbon, 50 mg). The solution was shaken under 50 psi of hydrogen gas for 8 h. The catalyst was removed by filtration through Celite, and the filter cake was washed with ethanol (20 mL). The solvent was removed by rotary evaporation, and the residue was basified with saturated aqueous sodium bicarbonate to pH 8-9. Solid sodium chloride (2 g) was added, and the mixture was extracted with chloroform (4×20 mL). The combined chloroform extracts were dried (Na2SO4), filtered and concentrated by rotary evaporation to afford 360.7 mg of the desired compound as a light brown viscous liquid (91.1%).

reactant | 1-benzyl-7-(5-ethoxy-3-pyridyl)-1,7-diazaspiro[4.4]nonane | 1.6 mmol, 540 mg | C(C1=CC=CC=C1)N1CCCC12CN(CC2)C=2C=NC=C(C2)OCC | C21H27N3O
reactant | HCl | 1 mL | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 25 mL | C(C)O | C2H6O
catalyst | Pearlman's catalyst | 50 mg | [OH-].[OH-].[Pd+2]
product | 7-(5-Ethoxy-3-pyridyl)-1,7-diazaspiro[4.4]nonane | 360.7 mg, 91.1% | C(C)OC=1C=C(C=NC1)N1CC2(CCCN2)CC1 | C14H21N3O
